US04260755
3-(Methoxymethyl)-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine
To a mixture of 0.01 mole of 3-hydrazino-6-phenylpyridazine in 25 ml. of dioxane is added 0.005 mole of methoxyacetyl chloride. The mixture is refluxed for 2 hours to give the product of the Example, m.p. 133° C.

reactant | 3-hydrazino-6-phenylpyridazine | 0.01 mole | N(N)C=1N=NC(=CC1)C1=CC=CC=C1 | C10H10N4
reactant | methoxyacetyl chloride | 0.005 mole | COCC(=O)Cl | C3H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(Methoxymethyl)-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine | COCC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C13H12N4O
